US06962933B1
[4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine
To a solution of 2-bromo-1-(3,5-dimethylphenyl)-2-(4-pyridyl)ethanone hydrobromide (5.0 g, 13 mmol) and thiourea (1.0 g, 14 mmol) in acetonitrile (60 mL) was added dropwise triethylamine (1.9 ml, 14 mmol) and the mixture was stirred at room temperature for 3 h. The solvent was concentrated under reduced pressure and a saturated aqueous sodium hydrogencarbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with water and the solvent was evaporated. The obtained crude crystals were recrystallized from ethyl acetate to give the title compound (2.0 g, 7.2 mmol, yield 55%).

reactant | 2-bromo-1-(3,5-dimethylphenyl)-2-(4-pyridyl)ethanone hydrobromide | 13 mmol, 5.0 g | Br.BrC(C(=O)C1=CC(=CC(=C1)C)C)C1=CC=NC=C1
reactant | thiourea | 14 mmol, 1.0 g | NC(=S)N | CH4N2S
reactant | triethylamine | 14 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | [4-(3,5-dimethylphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine | 7.2 mmol, 2.0 g, yield 55% | CC=1C=C(C=C(C1)C)C=1N=C(SC1C1=CC=NC=C1)N | C16H15N3S
